US06403584B1
To a solution of 12.0 g (100 mmol) of 3-methoxyphenol in 100 mL of methylene chloride at 0° C. was added 29.5 g (229 mmol) of diisopropylethylamine followed by dropwise addition of 10 g of chloromethyl methyl ether. The reaction mixture was stirred at room temperature overnight, washed with 1N HCl (3×75 mL), 1N NaOH (3×75 mL) and brine and was dried over anhydrous MgSO4. The mixture was filtered and concentrated in vacuo to give 3-methoxymethyloxy-anisole. 6.0 g (36 mmol) of 3-methoxymethyloxy-anisole was dissolved in 100 mL dry THF and was cooled to −78° C. To the solution was added dropwise 20 mL (50 mmol) of 2.5M n-butyl lithium in hexanes. The solution was stirred at −78° C. for 1 hour, the ice bath was removed and the solution stirred at room temperature for a further 1 hour. The reaction mixture was cooled to −78° C. and treated with 5.56 g (54 mmol) of trimethyl orthoborate. The solution was stirred for 1 hour and then allowed to warm to room temperature over 1 hour. The solution was treated with 30 mL of saturated NH4Cl solution and 100 mL of ethyl acetate with stirring. The pH was immediately adjusted to 5.0 by addition of aliquots of 5% citric acid solution. The aqueous phase was promptly extracted with ethyl acetate (3×50 mL). The combined ethyl acetate phases were extracted with 1N NaOH solution (3×50 mL). The combined basic extracts were acidified with rapid stirring by dropwise addition of concentrated hydrochloric acid to pH 5.0. The mixture was extracted by ethyl acetate (3×75 mL). The combined EtOAc phases were dried over anhydrous MgSO4, filtered and concentrated in vacuo to give 2-methoxy-6-(methoxymethyloxy)phenylboronic acid.

reactant | 3-methoxyphenol | 100 mmol, 12.0 g | COC=1C=C(C=CC1)O | C7H8O2
reactant | diisopropylethylamine | 229 mmol, 29.5 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | chloromethyl methyl ether | 10 g | COCCl | C2H5ClO
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
product | 3-methoxymethyloxy-anisole | COCOC=1C=C(C=CC1)OC | C9H12O3
